US07109228B2
tert-Butyl 3-(hydroxymethyl)-4-morpholinecarboxylate
Borane (38.1 ml of a 1.0M solution in tetrahydrofuran, 38.1 mmol) was added dropwise to a stirred suspension of 3-morpholinecarboxylic acid (1.00 g, 7.63 mmol) in tetrahydrofuran (50 ml) at room temperature under nitrogen. The reaction was heated under reflux and the reaction became homogeneous and heating was continued for 12 hours. The reaction was cooled to room temperature and concentrated under reduced pressure to leave a brown oil. The residue was dissolved in 1M aqueous sodium hydroxide solution and stirred at room temperature for 5 days. After this time di-tert-butyl dicarbonate (1.66 g, 7.63 mmol) was added and the reaction was stirred for 12 hours. The reaction was diluted with ether (100 ml). The organic layer was separated, washed with brine (10 ml), dried over magnesium sulphate, filtered and concentrated under reduced pressure. The crude product was purified by flash column chromatography on silica gel eluting with pentane:ethyl acetate (50:50, by volume) and then ethyl acetate to provide the title compound (1.30 g) as a colourless oil.

reactant | Borane | B | BH3
reactant | 3-morpholinecarboxylic acid | 7.63 mmol, 1.00 g | N1C(COCC1)C(=O)O | C5H9NO3
reactant | di-tert-butyl dicarbonate | 7.63 mmol, 1.66 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1M | [OH-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
product | tert-Butyl 3-(hydroxymethyl)-4-morpholinecarboxylate | 1.30 g | OCC1N(CCOC1)C(=O)OC(C)(C)C | C10H19NO4
